US06972340B2
methyl 2-[(5-{[N-acetyl-3-(4-[(carboxycarbonyl)(2-carboxyphenyl)amino]-1-naphthyl)-L-alanyl]amino}pentyl)oxy]-6-hydroxy-4-methylbenzoate
To a reclosable pressure tube containing methyl 2,6-dihydroxy-4-methylbenzoate (10 mg, 0.055 mmol) was added a solution of 5-hydroxypentyl 3-(4-{{2-[(benzhydryloxy)carbonyl]phenyl}[ethoxy(oxo)acetyl]amino}-1-naphthyl)-N-(tert-butoxycarbonyl)-L-alaninamide (33 mg, 0.041 mmol) and triphenylphosphine (15 mg, 0.057 mmol) in THF (0.2 mL). Diethylazodicarboxylate (10 mL, 0.064 mmol) was added, the vessel sealed and the reaction was stirred for 30 minutes. The reaction was opened, diluted with several drops of hexanes (barely to the point of cloudiness), then purified on a prepacked silica gel column (5 mL) eluting with 50% ethyl acetate/hexanes to provide the desired compound as an oil.

reactant | methyl 2,6-dihydroxy-4-methylbenzoate | 0.055 mmol, 10 mg | OC1=C(C(=O)OC)C(=CC(=C1)C)O | C9H10O4
reactant | 5-hydroxypentyl 3-(4-{{2-[(benzhydryloxy)carbonyl]phenyl}[ethoxy(oxo)acetyl]amino}-1-naphthyl)-N-(tert-butoxycarbonyl)-L-alaninamide | 0.041 mmol, 33 mg | OCCCCCN[C@@H](CC1=CC=C(C2=CC=CC=C12)N(C(C(=O)OCC)=O)C1=C(C=CC=C1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NC(=O)OC(C)(C)C | C47H51N3O9
reactant | triphenylphosphine | 0.057 mmol, 15 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethylazodicarboxylate | 0.064 mmol, 10 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 0.2 mL | C1CCOC1 | C4H8O
product | methyl 2-[(5-{[N-acetyl-3-(4-[(carboxycarbonyl)(2-carboxyphenyl)amino]-1-naphthyl)-L-alanyl]amino}pentyl)oxy]-6-hydroxy-4-methylbenzoate | C(C)(=O)N[C@@H](CC1=CC=C(C2=CC=CC=C12)N(C1=C(C=CC=C1)C(=O)O)C(=O)C(=O)O)C(=O)NCCCCCOC1=C(C(=O)OC)C(=CC(=C1)C)O | C38H39N3O11
